US07196199B2
(S)-α-(2′-(2-hydroxy-3-(4-(6-methoxynaphthalen-2-yl) piperidino) propyloxy) benzylidene)-γ-butyrolactone
(S)-α-(2′-(2,3-Epoxypropan-1-yloxy)benzylidene)-γ-butyrolactone (1.2 g) and 4-(6-methoxynaphthalen-2-yl)piperidine (1.2 g) were dissolved in methanol (50 ml), and the mixture was refluxed under heating for 2 hr. After cooling, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (1.0 g), melting point 148–150° C.

reactant | (S)-α-(2′-(2,3-Epoxypropan-1-yloxy)benzylidene)-γ-butyrolactone | 1.2 g | O1[C@H](COC2=C(C=C3C(=O)OCC3)C=CC=C2)C1 | C14H14O4
reactant | 4-(6-methoxynaphthalen-2-yl)piperidine | 1.2 g | COC=1C=C2C=CC(=CC2=CC1)C1CCNCC1 | C16H19NO
solvent | methanol | 50 ml | CO | CH4O
product | (S)-α-(2′-(2-hydroxy-3-(4-(6-methoxynaphthalen-2-yl) piperidino) propyloxy) benzylidene)-γ-butyrolactone | 1.0 g | O[C@H](COC1=C(C=C2C(=O)OCC2)C=CC=C1)CN1CCC(CC1)C1=CC2=CC=C(C=C2C=C1)OC | C30H33NO5
